US07626030B2
Step (b) Preparation of 6-((6,7-bis(methyloxy)-4-quinolinyl)oxy)-1-methyl-1H-indazol-3-amine
4-Chloro-6,7-dimethoxyquinoline (2.60 g, 11.7 mmol), 3-amino-1-methyl-1H-indazol-6-ol (Step a, 2.72 g, 16.7 mmol) and cesium carbonate (Aldrich, 16.3 g, 50.1 mmol) in DMSO (16.7 mL, Aldrich) were stirred at 100° C. for 16 h. After cooling to RT, water was added. The aqueous layer was extracted with DCM. The organic phase was washed with water, dried with MgSO4, filtered and concentrated in vacuo. Purification by silica gel chromatography using 0-100% of a 90:10:1 (CH2Cl2:MeOH:NH4OH) solution as the eluant afforded the title compound as a white solid. MS (ESI, pos. ion) m/z: 351.1 (M+1). Mass Calc'd for C19H18N4O3: 350.38.

reactant | 4-Chloro-6,7-dimethoxyquinoline | 11.7 mmol, 2.60 g | ClC1=CC=NC2=CC(=C(C=C12)OC)OC | C11H10ClNO2
reactant | 3-amino-1-methyl-1H-indazol-6-ol | NC1=NN(C2=CC(=CC=C12)O)C | C8H9N3O
reactant | cesium carbonate | 50.1 mmol, 16.3 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | O | H2O
solvent | DMSO | 16.7 mL | CS(=O)C | C2H6OS
product | 6-((6,7-bis(methyloxy)-4-quinolinyl)oxy)-1-methyl-1H-indazol-3-amine | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C2C(=NN(C2=C1)C)N | C19H18N4O3
